US05091384
Preparation of 1-cyclopropyl-6,8-difluoro-7-[7-ethyl-3,7-diazabicyclo[3.3.0] oct-1(5)-en-3-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (KR-10831)
1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.48 g), N-ethyl-3,7-diazabicyclo [3.3.0] oct-1(5)-ene dihydrobromide (0.57 g) and 1,8-diazabicyclo [5.4.0] undec-7-ene (DBU, 0.87 ml) were dissolved in acetonitrile (20 ml) and refluxed for 3 hours. After cooling the reaction mixture, the produced precipitate was collected by filteration and washed with acetonitrile (10 ml) and methanol (10 ml) to give the title compound (0.5 g, yield 73%)

reactant | 1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.48 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | N-ethyl-3,7-diazabicyclo [3.3.0] oct-1(5)-ene dihydrobromide | 0.57 g | Br.Br.C(C)N1CC=2CNCC2C1
reactant | 1,8-diazabicyclo [5.4.0] undec-7-ene | 0.87 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-6,8-difluoro-7-[7-ethyl-3,7-diazabicyclo[3.3.0] oct-1(5)-en-3-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.5 g, yield 73% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC=2CN(CC2C1)CC)F)=O)C(=O)O | C21H21F2N3O3
